US06300330B1
1(6-Chloronaphth-2-ylsulphonyl)piperazine (0.65 g, 2.1 mmol) was dissolved in dichloromethane (50 mL) and triethylamine (2.9 mL, 21 mmol) was added at room temperature. 4-Iodobenzoyl chloride (0.56 g, 2.1 mmol) was added as a solid in one portion and the reaction mixture stirred for one hour at room temperature. The reaction mixture was concentrated in vacuo, then separated between EtOAc (100 mL) and saturated sodium hydrogen carbonate solution (100 mL). The EtOAc layer was separated, dried over MgSO4, filtered and concentrated in vacuo. The resulting white solid was subjected to chromatography (SiO2: 50% EtOAc/Hexane) to yield 1-(6-chloronaphth-2-ylsulphonyl)-4-(4-iodobenzoyl)piperazine as a white solid (0.97 g); 1H NMR (DMSO-d6) δ=3.05 ppm (s,4H) δ=3.53 ppm (s,4H), δ=7.11 ppm & 7.74 ppm (dd,4H), δ=7.65 to 7.84 ppm (m,2H) δ=8.10 ppm to 8.28 ppm (m,3H), δ=8.47 ppm (s,1H); MS (M+H)+ 540.

reactant | 1(6-Chloronaphth-2-ylsulphonyl)piperazine | 2.1 mmol, 0.65 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1 | C14H15ClN2O2S
reactant | triethylamine | 21 mmol, 2.9 mL | C(C)N(CC)CC | C6H15N
reactant | 4-Iodobenzoyl chloride | 2.1 mmol, 0.56 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(6-chloronaphth-2-ylsulphonyl)-4-(4-iodobenzoyl)piperazine | 0.97 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)I)=O | C21H18ClIN2O3S
